### PR TITLE
[Merged by Bors] - chore: survey of porting notes

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Category/AlgebraCat/Basic.lean [hunk 1]
```diff
@@ -30,7 +30,6 @@ structure AlgebraCat where
   [isRing : Ring carrier]
   [isAlgebra : Algebra R carrier]
 
--- Porting note: typemax hack to fix universe complaints
```
Comment (j-loreaux) [inline Mathlib/Algebra/Category/AlgebraCat/Basic.lean:33]: I don't know what this means

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 2]
```diff
@@ -474,8 +474,8 @@ theorem isPullback_morphismRestrict {X Y : Scheme.{u}} (f : X ⟶ Y) (U : Y.Open
   refine
     (IsPullback.of_horiz_isIso ⟨?_⟩).paste_horiz
       (IsPullback.of_hasPullback f (Y.ofRestrict U.isOpenEmbedding)).flip
-  -- Porting note: changed `rw` to `erw`
-  erw [pullbackRestrictIsoRestrict_inv_fst]; rw [Category.comp_id]
+  erw [pullbackRestrictIsoRestrict_inv_fst]
+  rw [Category.comp_id]
```
Comment (j-loreaux) [inline Mathlib/AlgebraicGeometry/Restrict.lean:478]: I think it's fine to ignore this since we're tracking `erw` debt separately.

File: Mathlib/Geometry/Manifold/MFDeriv/Defs.lean [hunk 3]
```diff
@@ -253,7 +253,6 @@ theorem mdifferentiableAt_iff (f : M → M') (x : M) :
   rw [MDifferentiableAt, liftPropAt_iff]
   congrm _ ∧ ?_
   simp [DifferentiableWithinAtProp, Set.univ_inter]
-  -- Porting note: `rfl` wasn't needed
```
Comment (j-loreaux) [inline Mathlib/Geometry/Manifold/MFDeriv/Defs.lean:256]: Does this not still indicate a problem?

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean [hunk 4]
```diff
@@ -259,7 +259,6 @@ theorem mfderivWithin_fst {s : Set (M × M')} {x : M × M'}
 @[simp, mfld_simps]
 theorem tangentMap_prod_fst {p : TangentBundle (I.prod I') (M × M')} :
     tangentMap (I.prod I') I Prod.fst p = ⟨p.proj.1, p.2.1⟩ := by
-  -- Porting note: `rfl` wasn't needed
```
Comment (j-loreaux) [inline Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean:262]: idem

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean [hunk 5]
```diff
@@ -443,7 +442,6 @@ end prodMap
 @[simp, mfld_simps]
 theorem tangentMap_prod_snd {p : TangentBundle (I.prod I') (M × M')} :
     tangentMap (I.prod I') I' Prod.snd p = ⟨p.proj.2, p.2.2⟩ := by
-  -- Porting note: `rfl` wasn't needed
```
Comment (j-loreaux) [inline Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean:446]: idem

**Review by j-loreaux — COMMENTED** [review]
Looks mostly reasonable to me, but a few questions.

File: Mathlib/Geometry/Manifold/MFDeriv/Defs.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Geometry/Manifold/MFDeriv/Defs.lean:256]: Not really. There are many subtle changes in what works by reducible rfl.

File: Mathlib/Algebra/Category/AlgebraCat/Basic.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Algebra/Category/AlgebraCat/Basic.lean:33]: We've to decided to keep these. This particular one isn't used anywhere, but the others in the family are used at various points to avoid universe unification failures. No need to keep a porting note.

Comment (kim-em) [reply Mathlib/Algebra/Category/AlgebraCat/Basic.lean:33]: But I'll separately investigate whether we really need them still. Things have changed since we worked out this trick.

Comment (kim-em) [reply Mathlib/Algebra/Category/AlgebraCat/Basic.lean:33]: All removed now in #22417 and #22418.

**Comment by j-loreaux** [comment]
Merge conflict, but for after it's fixed:

bors d+

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
